US06348032B1
A mixture of N-benzenesulfonyl-4-amino-3-(biphenyl-4-ylmethylamino) benzamide (0.400 g) and formic acid (2 ml) is stirred for three hours at 90° C. The reaction solution is concentrated. The crystals which precipitated by adding methanol are separated through filtration, dried and thus, 6-benzenesulfonylcarbamoyl-1-(biphenyl-4-ylmethyl)benzimidazole (0.243 g) is obtained. 1H-NMR (DMSO-d6, δ): 5.60 (2H, s), 7.35 (1H, t, J=7.2 Hz), 7.39 (2H, d, J=8.2 Hz), 7.44 (2H, t, J=7.6 Hz), 7.61-7.77 (9H, m), 8.00 (2H, d, J=7.7 Hz), 8.26 (1H, s), 8.66 (1H, s), 12.5 (1H, s).

reactant | N-benzenesulfonyl-4-amino-3-(biphenyl-4-ylmethylamino) benzamide | 0.400 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)N)NCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H23N3O3S
reactant | formic acid | 2 ml | C(=O)O | CH2O2
product | 6-benzenesulfonylcarbamoyl-1-(biphenyl-4-ylmethyl)benzimidazole | 0.243 g | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C=1C=CC2=C(N(C=N2)CC2=CC=C(C=C2)C2=CC=CC=C2)C1 | C27H21N3O3S
